US08426411B2
An oven-dried flask was charged with DIAD (0.177 mL, 0.896 mmol) and THF (3.74 mL). The reaction flask was cooled to 0° C. before the addition of P(n-Bu)3 (0.221 mL, 0.896 mmol), 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (0.300 g, 0.747 mmol, prepared from Preparation #20 using KK and SS), TEA (0.125 mL, 0.896 mmol) and 2,2,2-trifluoroethanthiol (0.080 mL, 0.896 mmol). The reaction was stirred at ambient temperature for about 16 h. The reaction mixture was partitioned between water (10 mL) and EtOAc (10 mL). The aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layers were dried over anhydrous MgSO4, filtered, and concd under reduced pressure to afford a crude oil. The crude material was purified by silica gel chromatography eluting with a gradient of 0-60% EtOAc in DCM to afford 1-(2-ethyl-4-(2,2,2-trifluoroethylthio)cyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.165 g, 44%) as an orange solid: LC/MS (Table 1, Method a) Rt=3.02 min; MS m/z: 500 (M+H)+.

reactant | DIAD | 0.896 mmol, 0.177 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | P(n-Bu)3 | 0.896 mmol, 0.221 mL | P(CCCC)(CCCC)CCCC | C12H27P
reactant | 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 0.747 mmol, 0.300 g | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)O | C20H31N5O2Si
reactant | 2,2,2-trifluoroethanthiol | 0.896 mmol, 0.080 mL | FC(CS)(F)F | C2H3F3S
solvent | THF | 3.74 mL | C1CCOC1 | C4H8O
product | 1-(2-ethyl-4-(2,2,2-trifluoroethylthio)cyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.165 g, 44% | C(C)C1C(CC(C1)SCC(F)(F)F)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C | C22H32F3N5OSSi
